US05273974
2-Acetyl-8-chloro-1,2,3,4-tetrahydoisoquinoline
To a mixture of 28.6 g of 8-chloro-1,2,3,4-tetrahydoisoquinoline hydrochloride in 140 ml of dichloromethane was added 140 ml of 1N aqueous NaOH solution and 17.6 g of NaHCO3. To the solution was added dropwise 14.5 ml of acetic anhydride at 5° C. The mixture was stirred at room temperature for 1 hour. The organic layer was separated and the aqueous layer was extracted with dichloromethane. The combined organic extracts were washed with water, dried over anhydrous sodium sulfate. The solvent was distilled off to give 29.1 g of the title compound as a pale red oil.

reactant | 8-chloro-1,2,3,4-tetrahydoisoquinoline hydrochloride | 28.6 g | Cl.ClC=1C=CC=C2CCNCC12
reactant | NaOH | 1N, 140 ml | [OH-].[Na+]
reactant | NaHCO3 | 17.6 g | C(=O)(O)[O-].[Na+]
reactant | acetic anhydride | 14.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 140 ml | ClCCl | CH2Cl2
product | 2-Acetyl-8-chloro-1,2,3,4-tetrahydoisoquinoline | 29.1 g | C(C)(=O)N1CC2=C(C=CC=C2CC1)Cl | C11H12ClNO
